### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): define `edist` and rewrite `dist`

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
Define `edist` as the extended distance between two vertices of a simple graph, belonging to `ENat`, and rewrite `dist` as the coercion of `edist` to `Nat` using `toNat`. Rewrite the API to meet these new definitions.

Co-authored-by: Bhavik Mehta <bhavikmehta8@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 1]
```diff
@@ -43,105 +41,190 @@ variable {V : Type*} (G : SimpleGraph V)
...
+/--
+The extended distance between two vertices is the length of the shortest walk between them.
+It is `⊤` if no such walk exists.
+-/
+noncomputable def edist (u v : V) : ℕ∞ :=
+  ⨅ w : G.Walk u v, w.length
+
+variable {G} {u v w : V}
+
+protected theorem Reachable.exists_walk_of_edist (hr : G.Reachable u v) :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:55]: The dist theorems don't seem to follow the mathlib naming convention. Would you mind updating them and these edist theorems? I'm thinking this could be `Reachable.exists_walk_length_eq_edist` (and similar for `Connected` and the pre-existing dist versions).

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 2]
```diff
@@ -43,105 +41,190 @@ variable {V : Type*} (G : SimpleGraph V)
...
+
+/--
+The extended distance between two vertices is the length of the shortest walk between them.
+It is `⊤` if no such walk exists.
+-/
+noncomputable def edist (u v : V) : ℕ∞ :=
+  ⨅ w : G.Walk u v, w.length
+
+variable {G} {u v w : V}
+
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:54]: I think it would be good to include
```lean
theorem edist_eq_sInf : G.edist u v = sInf (Set.range fun w : G.Walk u v ↦ (w.length : ℕ∞)) := rfl
```
so that it's possible to rewrite without trying to get things to unfold in the right way.

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 3]
```diff
@@ -43,105 +41,190 @@ variable {V : Type*} (G : SimpleGraph V)
...
+theorem edist_comm : G.edist u v = G.edist v u := by
+  have {u v : V} (h : G.Reachable u v) : G.edist u v ≤ G.edist v u := by
+    obtain ⟨p, hp⟩ := h.symm.exists_walk_of_edist
+    rw [← hp, ← Walk.length_reverse]
+    apply edist_le
+  by_cases h : G.Reachable u v
+  · apply le_antisymm (this h) (this h.symm)
+  · have h' : ¬G.Reachable v u := fun h' => absurd h'.symm h
+    simp [h, h', edist_eq_top_of_not_reachable]
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:102]: Now that we're using ENat, we don't need to reason by cases. First, we should have this theorem in Connectivity:
```lean
theorem Walk.reverse_surjective : Function.Surjective (Walk.reverse : G.Walk u v → _) :=
  Function.RightInverse.surjective Walk.reverse_reverse
```
And then we can do some rewriting:
```suggestion
theorem edist_comm : G.edist u v = G.edist v u := by
  rw [edist_eq_sInf, ← Set.image_univ, ← Set.image_univ_of_surjective Walk.reverse_surjective,
    ← Set.image_comp, Set.image_univ, Function.comp_def]
  simp_rw [Walk.length_reverse, ← edist_eq_sInf]
```
I feel like there's a missing iInf reindexing lemma (do you know @b-mehta ?)

Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:102]: Now that we're using ENat, we don't need to reason by cases. First, we should have this theorem in Connectivity:
```lean
lemma Walk.reverse_surjective : Function.Surjective (Walk.reverse : G.Walk u v → _) :=
  Function.RightInverse.surjective Walk.reverse_reverse
```
And then we can do some rewriting:
```suggestion
theorem edist_comm : G.edist u v = G.edist v u := by
  rw [edist_eq_sInf, ← Set.image_univ, ← Set.image_univ_of_surjective Walk.reverse_surjective,
    ← Set.image_comp, Set.image_univ, Function.comp_def]
  simp_rw [Walk.length_reverse, ← edist_eq_sInf]
```
I feel like there's a missing iInf reindexing lemma. I'd rather be able to say "reindex using this surjective function". (Do you know @b-mehta ?)

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 4]
```diff
@@ -43,105 +41,190 @@ variable {V : Type*} (G : SimpleGraph V)
...
+The extended distance between vertices is equal to `1` if and only if these vertices are adjacent.
+-/
+theorem edist_eq_one_iff_adj : G.edist u v = 1 ↔ G.Adj u v := by
+  have ne_top_of_eq_one {n : ℕ∞} (h : n = 1) : n ≠ ⊤ := by
+    rw [← ENat.coe_toNat_eq_self, h]; rfl
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · let ⟨w, hw⟩ := exists_walk_of_edist_ne_top <| ne_top_of_eq_one h
+    rw [h, Nat.cast_eq_one] at hw
+    exact w.adj_of_length_eq_one <| hw
+  · exact ge_antisymm (ENat.one_le_iff_pos.mpr <| pos_edist_of_ne h.ne) <| edist_le h.toWalk
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:118]: Changes:
* Use `obtain` instead of `let` since it's a proof (`have` would work too). There's no difference in this case, but `let` signals "I care about the definition"
* Rather than define a sub-lemma, it's possible to use `simp` (or `decide`) to handle the neq. This is a slight abuse of `rw`'s ability to unify metavariables, and more principled would be `obtain ⟨w, hw⟩ := exists_walk_of_edist_ne_top (by rw [h]; simp : G.edist u v ≠ ⊤)`.
* `le_antisymm` instead of `ge_antisymm` since the operands are in terms of le, for clarity.

```suggestion
theorem edist_eq_one_iff_adj : G.edist u v = 1 ↔ G.Adj u v := by
  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
  · obtain ⟨w, hw⟩ := exists_walk_of_edist_ne_top <| by rw [h]; simp
    rw [h, Nat.cast_eq_one] at hw
    exact w.adj_of_length_eq_one hw
  · exact le_antisymm (edist_le h.toWalk) (ENat.one_le_iff_pos.mpr <| pos_edist_of_ne h.ne)
```

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 5]
```diff
@@ -43,105 +41,190 @@ variable {V : Type*} (G : SimpleGraph V)
...
   obtain ⟨p, hp⟩ := h.symm.exists_walk_of_dist
   rw [← hp, ← Walk.length_reverse]
   apply dist_le
 
-theorem dist_comm {u v : V} : G.dist u v = G.dist v u := by
+theorem dist_comm : G.dist u v = G.dist v u := by
   by_cases h : G.Reachable u v
   · apply le_antisymm (dist_comm_aux h) (dist_comm_aux h.symm)
   · have h' : ¬G.Reachable v u := fun h' => absurd h'.symm h
     simp [h, h', dist_eq_zero_of_not_reachable]
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:205]: We can delete `dist_comm_aux` and make use of `edist_comm`:
```suggestion
theorem dist_comm : G.dist u v = G.dist v u := by
  by_cases h : G.Reachable u v
  · rw [dist, edist_comm, ← dist]
  · have h' : ¬G.Reachable v u := fun h' => absurd h'.symm h
    simp [h, h', dist_eq_zero_of_not_reachable]
```

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 6]
```diff
@@ -43,105 +41,190 @@ variable {V : Type*} (G : SimpleGraph V)
...
   (Reachable.of_dist_ne_zero h).exists_walk_of_dist
 
 /- The distance between vertices is equal to `1` if and only if these vertices are adjacent. -/
-theorem dist_eq_one_iff_adj {u v : V} : G.dist u v = 1 ↔ G.Adj u v := by
+theorem dist_eq_one_iff_adj : G.dist u v = 1 ↔ G.Adj u v := by
   refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
   · let ⟨w, hw⟩ := exists_walk_of_dist_ne_zero <| ne_zero_of_eq_one h
     exact w.adj_of_length_eq_one <| h ▸ hw
   · have : h.toWalk.length = 1 := Walk.length_cons _ _
     exact ge_antisymm (h.reachable.pos_dist_of_ne h.ne) (this ▸ dist_le _)
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:225]: Again, let's make use of the edist lemma:
```suggestion
theorem dist_eq_one_iff_adj : G.dist u v = 1 ↔ G.Adj u v := by
  rw [dist, ENat.toNat_eq_iff, ENat.coe_one, edist_eq_one_iff_adj]
  decide
```

**Review by kmill — COMMENTED** [review]
Thanks! Overall it looks good. Some suggestions below:

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean (hunk 1 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: Thank you.  I've updated the naming of the lemmas that don't follow the naming convention, but I find naming lemmas confusing as there are lots of exceptions and subtleties.  Please let me know if the names are good now or if any need changing.

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: Sorry, I meant to say *just* these four theorems needed changing. Could you revert your last commit please?

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: Sure!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 7]
```diff
@@ -372,6 +372,9 @@ theorem reverse_reverse {u v : V} (p : G.Walk u v) : p.reverse.reverse = p := by
   | cons _ _ ih => simp [ih]
 #align simple_graph.walk.reverse_reverse SimpleGraph.Walk.reverse_reverse
 
+theorem reverse_surjective {u v : V} : Function.Surjective (reverse : G.Walk u v → _) :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:375]: I think Involutive might be the correct thing to have here, maybe Bijective / Surj / Inj could be given from that but imo Involutive is enough

File: Mathlib/Data/ENat/Lattice.lean [hunk 8]
```diff
@@ -45,7 +45,19 @@ lemma coe_iSup : BddAbove (range f) → ↑(⨆ i, f i) = ⨆ i, (f i : ℕ∞)
 @[norm_cast] lemma coe_iInf [Nonempty ι] : ↑(⨅ i, f i) = ⨅ i, (f i : ℕ∞) :=
   WithTop.coe_iInf (OrderBot.bddBelow _)
 
-variable {s : Set ℕ∞}
+lemma iInf_toNat : (⨅ i, (f i : ℕ∞)).toNat = ⨅ i, f i := by
+  cases isEmpty_or_nonempty ι
+  · simp [iInf_coe_eq_top.mpr ‹_›]
```
Comment (b-mehta) [inline Mathlib/Data/ENat/Lattice.lean:50]: I think a simp lemma saying `⨅ i, (f i : ℕ∞) = ⊤` in the case that iota is empty would be sensible, and also simplify this bit of the proof

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: Hmm not sure, although if we have bijectivity it could be even easier. Will think about this.

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 9]
```diff
@@ -43,105 +41,176 @@ variable {V : Type*} (G : SimpleGraph V)
...
+
+protected theorem Reachable.exists_walk_length_eq_edist (hr : G.Reachable u v) :
+    ∃ p : G.Walk u v, p.length = G.edist u v :=
+  csInf_mem <| Set.range_nonempty_iff_nonempty.mpr hr
+
+protected theorem Connected.exists_walk_length_eq_edist  (hconn : G.Connected) (u v : V) :
+    ∃ p : G.Walk u v, p.length = G.edist u v :=
+  (hconn u v).exists_walk_length_eq_edist
+
+theorem edist_le (p : G.Walk u v) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:65]: Maybe an alias for Walk.edist_le could be nice

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 10]
```diff
@@ -43,105 +41,176 @@ variable {V : Type*} (G : SimpleGraph V)
...
+
+@[simp]
+theorem edist_eq_zero_iff :
+    G.edist u v = 0 ↔ u = v := by
+  apply Iff.intro <;> simp [edist, ENat.iInf_eq_zero]
+
+theorem edist_self : edist G v v = 0 :=
+  edist_eq_zero_iff.mpr rfl
+
+theorem pos_edist_of_ne (hne : u ≠ v) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:77]: alias `Ne.edist_pos` maybe?

also I think this should be edist_pos_of_ne

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 11]
```diff
@@ -43,105 +41,176 @@ variable {V : Type*} (G : SimpleGraph V)
...
+    0 < G.edist u v :=
+  pos_iff_ne_zero.mpr <| edist_eq_zero_iff.ne.mpr hne
+
+lemma edist_eq_top_of_not_reachable (h : ¬G.Reachable u v) :
+    G.edist u v = ⊤ := by
+  simp [edist, not_reachable_iff_isEmpty_walk.mp h]
+
+theorem Reachable.of_edist_ne_top (h : G.edist u v ≠ ⊤) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:85]: I wouldn't use `Reachable.` here, since dot notation won't apply. `reachable_of_edist_ne_top` would be better

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 12]
```diff
@@ -43,105 +41,176 @@ variable {V : Type*} (G : SimpleGraph V)
...
+  simp_rw [Walk.length_reverse, ← edist_eq_sInf]
+
+lemma exists_walk_of_edist_ne_top (h : G.edist u v ≠ ⊤) :
+    ∃ p : G.Walk u v, p.length = G.edist u v :=
+  (Reachable.of_edist_ne_top h).exists_walk_length_eq_edist
+
+/--
+The extended distance between vertices is equal to `1` if and only if these vertices are adjacent.
+-/
+theorem edist_eq_one_iff_adj : G.edist u v = 1 ↔ G.Adj u v := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:108]: Might be a good simp lemma

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 13]
```diff
@@ -43,105 +41,176 @@ variable {V : Type*} (G : SimpleGraph V)
...
   apply dist_le
 #align simple_graph.connected.dist_triangle SimpleGraph.Connected.dist_triangle
 
-private theorem dist_comm_aux {u v : V} (h : G.Reachable u v) : G.dist u v ≤ G.dist v u := by
-  obtain ⟨p, hp⟩ := h.symm.exists_walk_of_dist
-  rw [← hp, ← Walk.length_reverse]
-  apply dist_le
-
-theorem dist_comm {u v : V} : G.dist u v = G.dist v u := by
+theorem dist_comm : G.dist u v = G.dist v u := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:190]: you can actually do this whole proof with just `rw [dist, dist, edist_comm]`

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean (hunk 9 above)
Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean:65]: Probably like this:
```
protected alias Walk.edist_le := edist_le
```

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean (hunk 10 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean:77]: Should I also change the `dist` versions of the lemmas and alias them too?

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: Are you sure about this alias Bhavik? This is putting a graph-specific theorem in the global Ne namespace. We could have `Ne.simpleGraph_walk_edist_pos` or something like that, but otherwise I'd suggest not having such an alias.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean (hunk 7 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:375]: I'm facing an issue here: `Function.Involutive` expects the function to have the same domain type and range type, but for reverse, the domain is of type `G.Walk u v` while its range is of type `G.Walk v u`.

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:375]: Oh yeah, that's a fundamental issue. How about for now we settle for `reverse_surjective` for now? If you want you can also throw in `reverse_injective` and `reverse_bijective`.

There's a way to state that it's involutive, but what comes to mind involves sigma types and isn't very nice:
```
theorem Walk.reverse_involutive :
    Function.Involutive
      (Sigma.map Prod.swap (fun _ => Walk.reverse) : (p : V × V) × G.Walk p.1 p.2 → (p : V × V) × G.Walk p.1 p.2) := by
  intro ⟨u, v⟩
  simp [Sigma.map]
```

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:375]: Oh right, good point! Yeah don't do involutive

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean (hunk 10 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: Oh true, `Ne.edist_pos` is probably too non-specific to be global

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 14]
```diff
@@ -43,105 +41,179 @@ variable {V : Type*} (G : SimpleGraph V)
...
+  apply edist_le
+
+theorem edist_comm : G.edist u v = G.edist v u := by
+  rw [edist_eq_sInf, ← Set.image_univ, ← Set.image_univ_of_surjective Walk.reverse_surjective,
+    ← Set.image_comp, Set.image_univ, Function.comp_def]
+  simp_rw [Walk.length_reverse, ← edist_eq_sInf]
+
+lemma exists_walk_of_edist_ne_top (h : G.edist u v ≠ ⊤) :
+    ∃ p : G.Walk u v, p.length = G.edist u v :=
+  (reachable_of_edist_ne_top h).exists_walk_length_eq_edist
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:105]:
```
lemma exists_walk_of_edist_eq_coe {k : ℕ} (h : G.edist u v = k) :
    ∃ p : G.Walk u v, p.length = k :=
  have : G.edist u v ≠ ⊤ := by rw [h]; exact ENat.coe_ne_top _
  have ⟨p, hp⟩ := exists_walk_of_edist_ne_top this
  ⟨p, Nat.cast_injective (hp.trans h)⟩
```
this seems helpful, I think.

Also a statement that edist isn't top iff the vertices are reachable (as an iff) would be good

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 15]
```diff
@@ -43,105 +41,179 @@ variable {V : Type*} (G : SimpleGraph V)
...
+
+lemma edist_eq_top_of_not_reachable (h : ¬G.Reachable u v) :
+    G.edist u v = ⊤ := by
+  simp [edist, not_reachable_iff_isEmpty_walk.mp h]
+
+theorem reachable_of_edist_ne_top (h : G.edist u v ≠ ⊤) :
+    G.Reachable u v :=
+  not_not.mp <| edist_eq_top_of_not_reachable.mt h
+
+protected theorem Connected.edist_triangle (hconn : G.Connected) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:91]: This doesn't need connectedness since we're using edist!
```
protected theorem edist_triangle : G.edist u w ≤ G.edist u v + G.edist v w := by
  rcases eq_or_ne (G.edist u v) ⊤ with huv | huv
  case inl => simp [huv]
  case inr =>
    rcases eq_or_ne (G.edist v w) ⊤ with hvw | hvw
    case inl => simp [hvw]
    case inr =>
      obtain ⟨p, hp⟩ := exists_walk_of_edist_ne_top huv
      obtain ⟨q, hq⟩ := exists_walk_of_edist_ne_top hvw
      rw [←hp, ←hq, ←Nat.cast_add, ←Walk.length_append]
      exact edist_le _
 ```

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean:91]: It's probably not worth developing all this theory, but it occurred to me that we could pull back infinity to Walk to have "extended walks", along with the "does not exist" walk. Then `edist_triangle` could be proved without any cases, because it's already been done in `EWalk.length_append`.
```lean
def EWalk (u v : V) := Option (G.Walk u v)

def EWalk.length : G.EWalk u v → ℕ∞ := Option.map Walk.length

def EWalk.append (p : G.EWalk u v) (q : G.EWalk v w) : G.EWalk u w :=
  Walk.append <$> p <*> q

def EWalk.length_append {p : G.EWalk u v} {q : G.EWalk v w} :
    (p.append q).length = p.length + q.length := by
  cases p <;> cases q <;> simp [EWalk.append, EWalk.length] <;> rfl

theorem exists_ewalk_length_eq_edist :
    ∃ p : G.EWalk u v, p.length = G.edist u v := by
  sorry
```

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: It is a great idea! I'll keep it in mind to potentially work on.
I think it would be nicer to move `Walk`s from `Connectivity.lean` into their own file (in the `Connectivity` folder) before attempting that, what do you think?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: I think that change does sound valuable - Reachable and Connected can be in Connectivity.lean; Walks and Paths can be in Walk.lean

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Metric.lean]: #15171 does this.

**Comment by b-mehta** [comment]
Nice work!

bors merge
